US08110575B2
7,7-dimethyl-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine dihydrochloride
5 mL trifluoroacetic acid were added at 0° C. to 1.6 g (6.1 mmol) tert.butyl 7,7-dimethyl-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylate in 15 mL dichloromethane and stirred for 2 h at RT. The reaction mixture was evaporated down. The residue was taken up in ethanol and mixed with 12 mL (15 mmol) 1.25 M ethanolic HCl and then evaporated down. The residue was triturated with ethanol and the solid was separated off by suction filtering and dried.

reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert.butyl 7,7-dimethyl-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylate | 6.1 mmol | CC1(C2=C(CN(C1)C(=O)OC(C)(C)C)C=NN2)C | C13H21N3O2
reactant | HCl | 15 mmol, 1.25 M, 12 mL | Cl | ClH
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 7,7-dimethyl-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine dihydrochloride | Cl.Cl.CC1(C2=C(CNC1)C=NN2)C | InChI=1S/C8H13N3.2ClH/c1-8(2)5-9-3-6-4-10-11-7(6)8;;/h4,9H,3,5H2,1-2H3,(H,10,11);2*1H
